US08022222B2
Using the method of Example 3, Step B, 2-(2-chloropyridin-4-yloxy)benzonitrile (0.330 g, 1.43 mmol), 3-methyl-1,2,4-thiadiazol-5-amine (3.26 mL, 1.30 mmol), potassium phosphate (0.304 g, 1.43 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.0298 g, 0.0326 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.0207 g, 0.0358 mmol) were reacted in toluene (5 mL) and water (1.5 mL) to afford 2-(2-(3-methyl-1,2,4-thiadiazol-5-ylamino)pyridin-4-yloxy)benzonitrile (10 mg) as off white solid. 1H NMR (CDCl3) δ 8.35 (d, 1H), 7.76 (dd, 1H), 7.66 (dt, 1H), 7.37 (dt, 1H), 7.19 (d, 1H), 6.63 (dd, 1H), 6.45 (d, 1H), 2.49 (s, 3H); Mass spectrum (esi) m/z=310 (100) (M+H).

reactant | 2-(2-chloropyridin-4-yloxy)benzonitrile | 1.43 mmol, 0.330 g | ClC1=NC=CC(=C1)OC1=C(C#N)C=CC=C1 | C12H7ClN2O
reactant | 3-methyl-1,2,4-thiadiazol-5-amine | 1.30 mmol, 3.26 mL | CC1=NSC(=N1)N | C3H5N3S
reactant | potassium phosphate | 1.43 mmol, 0.304 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.0358 mmol, 0.0207 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0326 mmol, 0.0298 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 1.5 mL | O | H2O
product | 2-(2-(3-methyl-1,2,4-thiadiazol-5-ylamino)pyridin-4-yloxy)benzonitrile | 10 mg | CC1=NSC(=N1)NC1=NC=CC(=C1)OC1=C(C#N)C=CC=C1 | C15H11N5OS
